US06586452B1
To the 7,24-bis-OSiMe3-protected 1″,2″-dihydro-3″-aldehyde (1″,2″-dihydro-Intermediate II, 30 mg) in THF (0.8 μL) at rt was added 1-methoxy-3-trimethylsilyloxy-butadiene (50 μL) followed by ZnCl2 (80 μL, 1M solution in Et2O) After 2 h at rt and 12 h at 0° C., bis-protected Diels-Alder adducts were obtained without workup by PTLC on silica gel (1×1000 μm plate) using 2/8 acetone/hexanes as eluant. The pure products (7 mg methoxy-substituted pyranone and 10 mg pyrenone) thus obtained were characterized by 1H NMR. Both products were deprotected separately as described previously (10 mg pyrenone yielded 9 mg deprotected product and 7 mg methoxypyranone yielded 6 mg deprotected product). The deprotected products were characterized by 1H NMR.

reactant | 1-methoxy-3-trimethylsilyloxy-butadiene | 50 μL | COC=CC(=C)O[Si](C)(C)C | C8H16O2Si
reactant | THF | 0.8 μL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 1M, 80 μL | [Cl-].[Cl-].[Zn+2]
product | pyrenone | 10 mg | C1(CC=C2C=CC3=CC=CC4=CC=C1C2=C34)=O | C16H10O
